US07626021B2
974 mg (3.73 mmol) of 5-bromo-2-hydroxy-3-(1-hydroxy-ethyl)-benzoic acid was dissolved in trifluoroacetic acid under nitrogen. 715 μL (521 mg, 4.48 mmol) of triethyl silane was added and the resulting mixture was heated to 90° C. for 2 h. The mixture was evaporated and the residue purified by flash chromatography on silica gel using a gradient of ethyl acetate in hexanes to afford 563 mg (2.30 mmol, 62%) of 5-bromo-3-ethyl-2-hydroxy-benzoic acid as a colorless solid. MS: m/z 243.0+244.9 (M+H+).

reactant | 5-bromo-2-hydroxy-3-(1-hydroxy-ethyl)-benzoic acid | 3.73 mmol, 974 mg | BrC=1C=C(C(=C(C(=O)O)C1)O)C(C)O | C9H9BrO4
reactant | triethyl silane | 4.48 mmol, 715 μL, 521 mg | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 5-bromo-3-ethyl-2-hydroxy-benzoic acid | 2.30 mmol, 563 mg, 62% | BrC=1C=C(C(=C(C(=O)O)C1)O)CC | C9H9BrO3
